US06001847
Methyl 1,2,3,4-tetrahydro-1-(3-chlorophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, mixture of cis and trans isomers
The same method as employed in the preparation of intermediate 1 and 2 but starting from racemic tryptophan methyl ester and 3-chlorobenzaldehyde gave the title compound as white solid m.p.:150-160° C.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | Methyl 1,2,3,4-tetrahydro-1-(3-chlorophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | ClC=1C=C(C=CC1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H17ClN2O2
